US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Paraformaldehyde (600 mg) and a 50% aqueous dimethylamine solution (1.80 g) were added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (1.00 g) in a mixture of ethanol (10 ml) and acetic acid (5 ml), and the resulting mixture was stirred with heating at 80° C. After the reaction solution was cooled to 25° C., toluene (30 ml) was added thereto and the resulting mixture was concentrated under reduced pressure. This procedure was repeated three times. The resulting residue was acidified with a 10% aqueous potassium hydrogensulfate solution and extracted twice with chloroform (100 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/2) to obtain the title compound (913 mg).

reactant | Paraformaldehyde | 600 mg | C=O | CH2O
reactant | dimethylamine | 1.80 g | CNC | C2H7N
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 1.00 g | ClC1=C(CN2C(=CC=3N(C(N(C(C32)=O)C)=O)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C25H32ClN5O4
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-[(dimethylamino)methyl]-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 913 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)CN(C)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C28H39ClN6O4
